US07875636B2
2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-hydroxypyridin-2-yl)ethyl]acetamide
To a mixture of 2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]acetamide (200 mg, 0.58 mmol) in DMSO (4.0 ml) was added sodium cyanide (141 mg, 2.89 mmol) and heated to 180° C. for one hour. An additional amount of sodium cyanide (207 mg, 4.22 mmol) was added and the mixture was further heated for another hour until no significant increase in desired product was observed by LC/MS. After cooling reaction to room temperature, the reaction was taken to neutral pH with the careful addition of 1.0 N HCl solution. Organics were extracted with EtOAc, dried over Na2SO4, filtered and concentrated in vacuo to give an oil. Normal phase chromatography (0-100% EtOAc/Hex) afforded 2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-hydroxypyridin-2-yl)ethyl]acetamide as an oil. 1H NMR (CDCl3, 400 MHz) δ 9.55 (brs, 1H); 8.07 (m, 1H); 7.50 (m, 4H); 7.41 (m, 2H); 7.28 (m, 3H); 7.00 (m, 2H); 6.82 (d, J=7.20 Hz, 1H); 5.03 (m, 1H); 3.57 (s, 2H); 1.37 (d, J=6.40 Hz, 3H); MS (Electrospray): m/z 333.1 (M+H).

reactant | 2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-methoxypyridin-2-yl)ethyl]acetamide | 0.58 mmol, 200 mg | C1(=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)OC)C1=CC=CC=C1 | C22H22N2O2
reactant | sodium cyanide | 2.89 mmol, 141 mg | [C-]#N.[Na+]
reactant | sodium cyanide | 4.22 mmol, 207 mg | [C-]#N.[Na+]
solvent | DMSO | 4.0 ml | CS(=O)C | C2H6OS
product | 2-(1,1′-biphenyl-4-yl)-N-[(1R)-1-(5-hydroxypyridin-2-yl)ethyl]acetamide | C1(=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)O)C1=CC=CC=C1 | C21H20N2O2
